US04167567
(b) p-Aminobenzoylpiperazine
A mixture of 11.75 g (0.05 mole) of p-nitrobenzoylpiperazine in 150 ml of absolute methanol and 0.2 g of 10% palladium on carbon is hydrogenated on a Parr apparatus during which the calculated amount of hydrogen is taken up over a 1.5 hour period. The reaction is left to stand overnight at room temperature. The reaction mixture is filtered from the catalyst and the filtrate concentrated in vacuo giving a near white crystalline residue. This residue is re-crystallized from 1-propanol at the boiling point giving 9.51 g of near-white crystals of melting point 194.5°-195.5° C.

reactant | p-nitrobenzoylpiperazine | 0.05 mole, 11.75 g | [N+](=O)([O-])N1CCN(CC1)C(C1=CC=CC=C1)=O | C11H13N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | p-Aminobenzoylpiperazine | 9.51 g | NN1CCN(CC1)C(C1=CC=CC=C1)=O | C11H15N3O
